US05514706
2-Fluorobenzylidenemalonitrile
2-Fluorobenzaldehyde (15.8 ml) was dissolved in ethanol (100 ml) and to the stirred solution was added malonitrile (9.9 g). The solution was heated to reflux, the heating discontinued and piperidine (4 drops) was added. Once the vigorous reaction had diminished, the solution was heated for 15 minutes and then chilled. Crystals of product were filtered off and washed with ethanol, m.p. 122° C.

reactant | 2-Fluorobenzaldehyde | 15.8 ml | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | malonitrile | 9.9 g | C(C(O)CC#N)#N | C4H4N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
product | 2-Fluorobenzylidenemalonitrile | FC1=C(C=C(C(C#N)O)C#N)C=CC=C1 | C11H7FN2O
